US06340678B1
(Z)-4,4-Difluoro-5-[2-(4-methylpiperazin-1-yl)-2-oxoethylidene]-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzoazepine (11.7 g) was dissolved in 20 ml of concentrated sulfuric acid, followed by stirring for 24 hours at room temperature. The reaction solution was poured over 700 ml of a 1N aqueous solution of sodium hydroxide and extracted with chloroform. The organic layer was washed with a saturated aqueous solution of NaCl, and after drying over magnesium sulfate, the solvent was evaporated off. The resulting residue was crystallized from diethyl ether to give 7.62 g of (Z)-4,4-difluoro-5-[2-(4-methylpiperazin-1-yl)-2-oxoethylidene]-2,3,4,5-tetrahydro-1H-1-benzoazepine as a colorless powder.

reactant | (Z)-4,4-Difluoro-5-[2-(4-methylpiperazin-1-yl)-2-oxoethylidene]-1-tosyl-2,3,4,5-tetrahydro-1H-1-benzoazepine | 11.7 g | FC\1(CCN(C2=C(/C1=C/C(=O)N1CCN(CC1)C)C=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)F | C24H27F2N3O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | (Z)-4,4-difluoro-5-[2-(4-methylpiperazin-1-yl)-2-oxoethylidene]-2,3,4,5-tetrahydro-1H-1-benzoazepine | 7.62 g | FC\1(CCNC2=C(/C1=C/C(=O)N1CCN(CC1)C)C=CC=C2)F | C17H21F2N3O
